US08486952B2
To a solution of 2,4-dichloro-8-phenyl-5,6,7,8-tetrahydroquinazoline (53.9 mg, 0.193 mmol) in methanol (1 mL) was added N-methylethanamine (0.033 mL, 0.386 mmol). The reaction mixture was stirred at room temperature for 2 h. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 2-chloro-N-ethyl-N-methyl-8-phenyl-5,6,7,8-tetrahydroquinazolin-4-amine (42.9 mg, 0.141 mmol, 72.9% yield) as colorless oil. LC-MS (M+H)+=302.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.25 (2H, t, J=7.5 Hz), 7.13-7.20 (1H, m), 7.01 (2H, d, J=7.3 Hz), 4.06-4.14 (1H, m), 3.42-3.53 (2H, m), 3.05 (3H, s), 2.56-2.74 (2H, m), 2.17-2.27 (1H, m), 1.76-1.89 (2H, m), 1.52-1.64 (1H, m), 1.24 (3H, t, J=7.2 Hz).

reactant | 2,4-dichloro-8-phenyl-5,6,7,8-tetrahydroquinazoline | 0.193 mmol, 53.9 mg | ClC1=NC=2C(CCCC2C(=N1)Cl)C1=CC=CC=C1 | C14H12Cl2N2
reactant | N-methylethanamine | 0.386 mmol, 0.033 mL | CNCC | C3H9N
solvent | methanol | 1 mL | CO | CH4O
product | 2-chloro-N-ethyl-N-methyl-8-phenyl-5,6,7,8-tetrahydroquinazolin-4-amine | 0.141 mmol, 42.9 mg, 72.9% yield | ClC1=NC=2C(CCCC2C(=N1)N(C)CC)C1=CC=CC=C1 | C17H20ClN3
